US08703951B2
1) Dimethyl 6-ethyl-3-methyl-6,11-dihydro-5H-indolizino[6,7-b]indole-1,2-dicarboxylate
This compound was prepared from dimethyl 3-methyl-6,11-dihydro-5H-indolizino[6,7-b]indole-1,2-dicarboxylate (5.1 g, 15 mmol), NaH (0.54 g, 22.5 mmol) and iodoethane (2.3 g, 15 mmol). Yield 5.1 g (92%); mp 202-203° C. 1H NMR (DMSO-d6) δ 1.29 (3H, t, J=6.9 Hz, Me), 2.46 (3H, s, Me), 3.73 (3H, s, COOMe), 3.74 (3H, s, COOMe), 4.17 (2H, s, CH2), 4.20 (2H, q, J=6.9 Hz, CH2), 5.29 (2H, s, CH2), 7.05-7.09 (1H, m, ArH), 7.16-7.20 (1H, m, ArH), 7.49-7.51 (1H, m, ArH), 7.53-7.55 (1H, m, ArH). Anal. Calcd for (C21H22N2O4): C, 68.84; H, 6.05; N, 7.65. Found: C, 68.46; H, 6.06; N, 7.59.

reactant | dimethyl 3-methyl-6,11-dihydro-5H-indolizino[6,7-b]indole-1,2-dicarboxylate | 15 mmol, 5.1 g | CC1=C(C(=C2CC3=C(NC=4C=CC=CC34)CN12)C(=O)OC)C(=O)OC | C19H18N2O4
reactant | NaH | 22.5 mmol, 0.54 g | [H-].[Na+]
reactant | iodoethane | 15 mmol, 2.3 g | ICC | C2H5I
product | Dimethyl 6-ethyl-3-methyl-6,11-dihydro-5H-indolizino[6,7-b]indole-1,2-dicarboxylate | C(C)N1C2=C(C=3C=CC=CC13)CC1=C(C(=C(N1C2)C)C(=O)OC)C(=O)OC | C21H22N2O4
